US06573293B2
2-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-5-methyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)-amide
A mixture of 5-bromo-2-oxindole (106 mg, 0.5 mmol), 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (126 mg, 1 equiv.) and piperidine (0.2 mL) in ethanol (2 mL) was heated in a sealed tube at 80° C. for 1 hr and then cooled. The precipitate was collected by vacuum filtration, washed with ethanol and ethyl acetate and dried to give the title compound as an orange solid.

reactant | 5-bromo-2-oxindole | 0.5 mmol, 106 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 126 mg, 1 equiv. | C(C)N(CCNC(=O)C1=C(NC(=C1)C)C=O)CC | C13H21N3O2
reactant | piperidine | 0.2 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-5-methyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)-amide | C(C)N(CCNC(=O)C1=C(NC(=C1)C)C=C1C(NC2=CC=C(C=C12)Br)=O)CC | C21H25BrN4O2
